Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
Casting of right lower extremity

 
History of Present Illness:
___ yo F w/ DM2, HTN, HL, Parkinsons dz, CRI s/p unwitnessed fall 
at ___, found on floor by staff and helped to chair. Patient 
states she fell in bathroom and was ambulatory with the 
assistance of a walker prior to fall. Since fall she cannot walk 
due to the pain in her right ankle and hip. Denies head trauma 
or loss of consciousnes. She reports being on the ground only 
for a few minutes before someone found her and helped her up. 
She reports a history of mechanical falls attributed to her 
___ disease. Her most recent fall prior to today was the 
day before ___ and resulted in a significant skin tear 
on her left forearm that requires regular wound care and has had 
slow healing. Due to her inability to ambulate after today's 
fall she was brought to the Emergency Department.  
.  
In the ED, initial VS were: T 98.0 HR 54 BP 160/70 RR 18 SpO2 
100% RA. Ortho and Trauma teams were consulted. Imaging showed 
no intracranial hemorrhage or hip fracture. However, it did 
reveal significant right ankle fracture. Reduction of her right 
ankle was attempted twice by ortho team in the ED without 
significant improvement and she was ultimately splinted. They 
recommended admission to Medicine service with possible 
operative repair in the morning. Patient received Dilaudid 2mg 
IV and 1 L ___ prior to transfer to the medicine floor.  
.  
On the floor, she states she's in a great deal of pain in her 
right ankle. She denies any chest pain, shortness of breath, 
lightheadedness, abdominal pain, fevers, chills, dysuria, or 
diarrhea.  
.  
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denied cough, shortness of breath. Denied chest pain 
or tightness, palpitations. Denied nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria.  

 
Past Medical History:
1. Diabetes mellitus.  
2. History of urinary frequency.  
3. Gait disturbance.  
4. Memory loss.  
5. Hearing loss.  
6. Hypertension.  
7. Hypercholesterolemia.  
8. Renal insufficiency.  
9. Vitamin D deficiency.  
10. Right fifth toe fracture ___.  
11. Lumbar spinal stenosis.  
12. Peripheral neuropathy.  
13. ___ disease.  
14. History of breast cancer.  
15. Aortic insufficiency.  
16. ___ disease.  
17. Osteoporosis.  

 
Social History:
___
Family History:
NC
 
Physical Exam:
Vitals: T: 98.3 BP: 190/60 P: 79 R: 20 O2: 93% RA  
General: Alert, oriented, no acute distress, drowsy (after 
dilaudid)  
HEENT: Sclera anicteric, MMM, oropharynx clear, pinpoint pupils  

Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally anteriorly, no wheezes, 
rales, rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, R ankle in soft cast and elevated, 
toes warm, good cap refill and sensation intact  
Neuro: pinpoint pupils, CN ___ grossly intact, follow commands, 
exam limited by pain and drowsiness/inattention  
SKIN: Significant L forearm abrasion with serosanguinous 
drainage, dressing in place  

 
Pertinent Results:
Labs on admission:

___ 05:54PM   GLUCOSE-910* UREA N-22* CREAT-1.2* 
SODIUM-131* POTASSIUM-3.5 CHLORIDE-100 TOTAL CO2-23 ANION GAP-12
___ 05:54PM   ALBUMIN-2.9* CALCIUM-6.9* PHOSPHATE-3.1 
MAGNESIUM-1.6
___ 01:35PM   WBC-10.9 RBC-4.32 HGB-13.5 HCT-42.3 MCV-98 
MCH-31.2 MCHC-31.9 RDW-13.1
___ 01:35PM URINE  RBC-0 ___ BACTERIA-RARE YEAST-NONE 
EPI-0
___ 01:35PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-25 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG

Imaging:
CT Cspine: 
IMPRESSION: No fracture or malalignment of the cervical spine. 
Moderate 
degenerative changes of the mid-to-lower cervical spine. 

CT head:
IMPRESSION: No acute intracranial abnormality.

Right Ankle 2 view xray:
There is a horizontal nondisplaced intra-articular fracture 
involving the medial malleolus and a vertical fracture of the 
lateral aspect of the distal tibial metaphysis extending 
inferiorly to the articular surface, with minimal lateral 
displacement of the fracture fragment. There is possible 
extension of this fracture into the posterior malleolus as the 
posterior malleolar cortex is slightly irregular. Evaluation of 
the ankle mortise is limited secondary to the projection of the 
film. Also noted is a comminuted spiral fracture of the distal 
fibular diaphysis terminating medially approximately 2.4 cm 
proximal to the tibial plafond. There may be a small joint 
effusion identified. The bones are diffusely osteopenic. No 
foreign bodies are identified. 

Comminuted distal fibular fracture and intra-articular fractures 
involving the medial malleolus and lateral distal tibial 
metaphysis, with probable extension into the posterior malleolus 
as detailed above. 

Repeated: 

A plaster cast has been placed and obscures underlying fine bony 
detail. Additionally, there is baseline osteopenia. As best can 
be noted, there has been no significant interval change in the 
minimally displaced fractures involving the medial malleolus and 
the distal fibular diaphysis, as previously described. Slight 
widening medially of the ankle mortise is again present and 
relatively unchanged. The details of the fracture, particularly 
the involvement of the lateral aspect of the distal tibia are 
not well seen, in part due to the overlying casting material. 
  
IMPRESSION: No significant interval change in the minimally 
displaced 
fractures previously described. 

Repeated again:
Right ankle xray:
There is an overlying cast which limits fine bony detail. There 
is again seen a fracture involving the distal fibula, 4 cm above 
the tibiotalar joint. There is some widening of the medial ankle 
mortise. 

Hip xray:
No evidence of acute traumatic injury to the right hip.

CXR:
IMPRESSION: 
No signs of acute cardiopulmonary process. 

 
Brief Hospital Course:
Assessment and Plan: ___ yo F w/ DM2, HTN, HL parkinsons dz, CRI 
s/p unwitnessed mechanical fall at ___, found on floor by staff 
and helped to chair. Found to have R ankle fracture in the ED.  
 
.  
# R ankle fracture: Intraarticular fracure of the distal right 
fibula, no radiographic evidence of improvement after attempted 
reductions. Per ortho, non-weightbearing in RLE x 6 weeks, no 
surgery, keep current cast on until appointment on ___, 
at which point she will have recasting.  No evidence of other 
fractures. Patient placed on calcium and vitamin D. Pain control 
was with standing tylenol (should be reevaluated on weekly 
basis) and PRN oxycodone Q4-6 hours (should be monitored for 
confusion/sedation/changes in respiratory status). Patient will 
need to continue lovenox 30mg Q24 while non weight-bearing. 
Patient needs to be seen by physical therapy in rehab.

.  
# Falls: Patient describes mechanical fall, possibly secondary 
to postural hypotension from ___. She was discharged on 
___, and should consider ___ as outpatient as 
recommended by geriatrics team. 
.
# Acute on chronic kidney disease: Creatinine slowly trended up 
from 1.2 to 1.5 (baseline 1.2-1.5), but then remained stable. 
Urine lytes showed prerenal etiology and she was given gentle 
fluid resuscitation. HCTZ was stopped, ___ was continued because 
creatinine stable on day of discharge.  
. 
# HTN: Blood pressure elevated as high as 180s systolic while 
inhouse and asymptomatic (but BP's fluctuated, possibly ___ 
positional changes and pain), continued on ___, metoprolol XL. 
HCTZ stopped and she was started on norvasc 5mg daily. Her 
systolic blood pressures were in the 140's to 150's at the time 
of discharge. 
.
# Chest pain: On ___, patient c/o ___ pain in chest, stated 
it felt like she was in the wrong position. No 
N/V/SOB/diaphoresis/radiation. DDx is musculoskeletal vs. ACS 
vs. PE (given fracture/immobility). EKG with no changes (old T 
wave inversion in V1, otherwise NSR), CE's negative. Low 
suspicion for PE b/c no evidence of right heart strain on EKG, 
no tachycardia. Most likely musculoskeletal given 
reproducibility on palpation.  Pain resolved with tylenol.

.  
# Skin tear from prior fall: Deep abrasion was present. No signs 
of active infection.  Wound care recommendations are listed on 
page 1 of discharge planning, for rehabilitation facility.
.
# Anxiety: Patient's alprazolam titrated down from 0.5mg to 
0.25mg. Goal is to eventually taper off alprazolam.

.  
# ___ disease: Continued on home medications.  
.  
# DM2:  Discharged on Januvia, levemir, glipizide. Oral 
hypoglycemics were held inhouse.
.  
# Code: DNR/DNI  
.  
# Emergency Contact: ___ (daughter) ___  

 
Medications on Admission:
Aricept 10 mg daily  
Asa 81 mg daily  
Carbidopa 50/200 mg tid  
Cozaar 50 mg daily  
Glipizide 2.5 mg daily  
HCTZ 25 mg daily  
Januvia 50 mg daily  
Levemir 18 u sc daily  
Lexapro 10 mg daily  
Lipitor 10 mg daily  
Toprol 50 mg daily  
Robitussin 2 tsp prn  
Trazadone 50 mg prn  
Tylenol ___ mg prn  
Xanax 0.5 mg prn  

 
Discharge Medications:
1. Acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO Q8H (every 
8 hours): Please re-evaluate need for standing tylenol weekly.  
2. Donepezil 10 mg Tablet Sig: One (1) Tablet PO once a day.  
3. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
4. Carbidopa-Levodopa 50-200 mg Tablet Sustained Release Sig: 
One (1) Tablet PO TID (3 times a day).  
5. Escitalopram 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Atorvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. Metoprolol Succinate 50 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO once a day.  
8. Amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

9. Losartan 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
10. Enoxaparin 30 mg/0.3 mL Syringe Sig: One (1)  Subcutaneous 
Q24H (every 24 hours).  
11. Januvia 50 mg Tablet Sig: One (1) Tablet PO once a day.  
12. Glipizide 2.5 mg Tablet Extended Rel 24 hr Sig: One (1) 
Tablet Extended Rel 24 hr PO once a day.  
13. Oxycodone 5 mg Tablet Sig: One (1) Tablet PO Q4-6H as needed 
for pain: hold for sedation or RR<12

Please evaluate need for continued use weekly.  
14. Xanax 0.25 mg Tablet Sig: One (1) Tablet PO QHS PRN as 
needed for anxiety: hold for sedation or RR<12

GOAL IS TO EVENTUALLY WEAN OFF AND STOP THIS MEDICATION.  
15. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day): HOLD FOR LOOSE STOOLS.  
16. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day): HOLD FOR LOOSE STOOLS.  
17. Polyethylene Glycol 3350 17 gram/dose Powder Sig: One (1)  
PO DAILY (Daily) as needed for constipation.  
18. Levemir 100 unit/mL Solution Sig: Eighteen (18) UNITS 
Subcutaneous once a day.  
19. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO TID (3 times a day).  
20. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: 
1. Right ankle fracture 
2. Mechanical Fall 
3. Acute on Chronic Renal Insufficiency 
 
SECONDARY DIAGNOSIS: 
1. Hypertension 
2. Diabetes mellitus.  
3. ___ disease.  
4. Aortic insufficiency.  

 
Discharge Condition:
Mental Status:Confused - sometimes 
Level of Consciousness:Alert and interactive 
Activity Status: Nonweightbearing of right lower extremity for 
six weeks 

 
Discharge Instructions:
You were admitted to ___ on ___ because you had a fall and 
fractured your right ankle. You were seen by the orthopedic 
surgeons who did not think that you needed surgery. Instead, you 
will need to remain in a cast for 6 weeks and you cannot bear 
weight on your right leg until that time. You need to take a 
blood thinner everyday for the next six weeks to prevent a blood 
clot from going to your lungs while you aren't moving around 
very much.
 

 
While you were here, you also had some chest pain, but we did a 
heart tracing and blood testing to be sure it was not a heart 
attack. This testing was all normal, and we think the pain is 
probably from muscle strain because of the way you were lying in 
bed.
 

 
The following changes were made to your medications:
 
1. STOP taking HCTZ
 
2. START taking norvasc 5mg daily
 
3. STOP taking trazodone
 
4. DECREASE your xanax from 0.5mg to 0.25mg, and eventually try 
to STOP this medication. It can be dangerous in elderly 
patients. Never drink alcohol or drive with this medication.
 
5. START taking calcium and vitamin D for your bones
 
6. START taking tylenol ___ every 6 hours 
 
7. START taking oxycodone 5mg every ___ hours as needed for 
pain. Never drink alcohol or drive with this medication.
 
8. START taking colace and senna to help move your bowels. TAKE 
miralax as needed for constipation if these aren't working.
 
9. START lovenox daily; continue for 6 weeks while 
non-weightbearing (reassess with orthopedic surgeon at your next 
office)
 

 
Followup Instructions:
___